US08686022B2
(1-methyl-1H-indol-7-yl)-methanol
10.8 g 1-methyl-1H-indole-7-carbaldehyde are dissolved in 150 ml of ethanol, cooled to 0° C. and combined batchwise with 1.3 g sodium borohydride. After the addition has ended the cooling bath is removed and the mixture is stirred for another 2 hours at ambient temperature. Then 68 ml 1 M sodium hydroxide solution are added, the mixture is stirred for 10 minutes and then most of the ethanol is eliminated in vacuo. The residue is divided between water and ethyl acetate and the aqueous phase is extracted twice with ethyl acetate. The combined organic phases are washed with saturated aqueous sodium chloride solution and dried on magnesium sulphate. Then the solvents are eliminated in vacuo and the residue is dried in vacuo.

reactant | 1-methyl-1H-indole-7-carbaldehyde | 10.8 g | CN1C=CC2=CC=CC(=C12)C=O | C10H9NO
reactant | sodium borohydride | 1.3 g | [BH4-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (1-methyl-1H-indol-7-yl)-methanol | CN1C=CC2=CC=CC(=C12)CO | C10H11NO
